US04769466
This compound was prepared by suitable modification of the procedures described by Niemers and Hiltman, Synthesis, 1976, 593 as follows. To a solution of 1-(2-pyridinyl)-2-phenylethanone (Case and Buttle, J. Org. Chem., 1961, 26, 4415) (49.05 g, 0.249 mol) in 95% ethanol (400 ml) was added a solution of hydroxylamine hydrochloride (51.91 g, 0.747 mol) in 10% sodium hydroxide (200 ml). The solution was heated to reflux under nitrogen for 1.25 hours, and stirred at room temperature for 48 hours. The majority of the solvent was removed and the residue was added to water (500 ml). The aqueous solution was extracted with ether (1×1000 ml, and 3×250 ml). The combined ether extracts were washed with saturated NaCl and dried over MgSO4. Removal of solvent gave 55.61 g of the crude product as a brown solid. The above solid was dissolved in cyclohexane (400 ml) and ether (500 ml) and filtered while hot. The filtrate was concentrated to a volume of 500 ml and cooled to room temperature. The solid which formed was isolated by filtration to yield 20.77 g of 1-(2-pyridinyl)-2-phenylethanone oxime; mp 151°-153° C.

reactant | 1-(2-pyridinyl)-2-phenylethanone | 0.249 mol, 49.05 g | N1=C(C=CC=C1)C(CC1=CC=CC=C1)=O | C13H11NO
reactant | hydroxylamine hydrochloride | 0.747 mol, 51.91 g | Cl.NO
solvent | ethanol | 400 ml | C(C)O | C2H6O
solvent | sodium hydroxide | 200 ml | [OH-].[Na+]
solvent | cyclohexane | 400 ml | C1CCCCC1 | C6H12
product | 1-(2-pyridinyl)-2-phenylethanone oxime | 20.77 g | N1=C(C=CC=C1)C(CC1=CC=CC=C1)=NO | C13H12N2O
